US05004739
3-Bromo-7-(bromomethyl)-phenanthrene (10)
A mixture of 3-bromo-7-methylphenanthrene (2.640 g, 9.736 mmol) and N-bromosuccinimide (1.733 g, 9.736 mmol) in 200 ml of carbon tetrachloride was heated to reflux and benzoyl peroxide (25 mg) was added. After 2.5 hour a starch-iodide test showed that no NBS remained and the mixture was cooled to room temperature, washed with water, dried (MgSO4) and evaporated to give 3.14 g of crude product as a solid. Flash chromatography through 330 g of silica gel (10% CH2Cl2 /hexane) gave 2.719 g of a white solid which was recrystallized from 70 ml of cyclohexane (reflux to RT) to yield 2.061 g (60%) of the title compound as a white solid, mp 147°-148° C.

reactant | 3-bromo-7-methylphenanthrene | 9.736 mmol, 2.640 g | BrC=1C=CC=2C=CC3=CC(=CC=C3C2C1)C | C15H11Br
reactant | N-bromosuccinimide | 9.736 mmol, 1.733 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | NBS | C1CC(=O)N(C1=O)Br | C4H4BrNO2
solvent | carbon tetrachloride | 200 ml | C(Cl)(Cl)(Cl)Cl | CCl4
catalyst | benzoyl peroxide | 25 mg | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
product | 3-Bromo-7-(bromomethyl)-phenanthrene | 2.719 g | BrC=1C=CC=2C=CC3=CC(=CC=C3C2C1)CBr | C15H10Br2
